US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(4-methoxypyridin-2-yl)-4-methylphenyl)guanidine (0.2 g) in dichloromethane (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (50 ml), and the precipitate was collected by filtration and dried under reduced pressure to give (3-(4-methoxypyridin-2-yl)-4-methylphenyl)-guanidine dihydrochloride (137 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(4-methoxypyridin-2-yl)-4-methylphenyl)guanidine | 0.2 g | C(C)(C)(C)OC(=O)NC(=NC1=CC(=C(C=C1)C)C1=NC=CC(=C1)OC)NC(=O)OC(C)(C)C | C24H32N4O5
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | (3-(4-methoxypyridin-2-yl)-4-methylphenyl)-guanidine dihydrochloride | 137 mg | Cl.Cl.COC1=CC(=NC=C1)C=1C=C(C=CC1C)NC(=N)N | InChI=1S/C14H16N4O.2ClH/c1-9-3-4-10(18-14(15)16)7-12(9)13-8-11(19-2)5-6-17-13;;/h3-8H,1-2H3,(H4,15,16,18);2*1H
